simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vclk (advance 0) vsource type=pulse val0=0 val1=0.9 delay=0 rise=50p fall=50p width=1.8n period=4n
Vrst (clear_n 0) vsource type=pwl wave=[ 0 0 4n 0 4.1n 0.9 120n 0.9 ]
Vqty0 (qty0 0) vsource dc=0.9
Vqty1 (qty1 0) vsource dc=0.9
Vqty2 (qty2 0) vsource dc=0

XDUT (advance clear_n qty0 qty1 qty2 vdd vss cell0 cell1 cell2 cell3 cell4 cell5 cell6 cell7) v2_dwa_not_random_scramble_steady_count

tran tran stop=120n maxstep=500p
save advance clear_n qty0 qty1 qty2 cell0 cell1 cell2 cell3 cell4 cell5 cell6 cell7
